US07825253B2
N-[2-(3-Cyclopropyl-phenylamino)-quinolin-5-yl]-3,5-difluoro-benzenesulfonamide
The title compound, MS: m/e=452.0 (M+H+), was prepared in accordance with the general method of example 89 from 5-nitro-2-chloroquinoline, 3,5-difluorobenzenesulfonylchloride and 3-cyclopropylaniline.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,5-difluorobenzenesulfonylchloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 3-cyclopropylaniline | C1(CC1)C=1C=C(N)C=CC1 | C9H11N
product | N-[2-(3-Cyclopropyl-phenylamino)-quinolin-5-yl]-3,5-difluoro-benzenesulfonamide | C1(CC1)C=1C=C(C=CC1)NC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC(=CC(=C1)F)F | C24H19F2N3O2S
